US07985755B2
4-[2-(2-Cyano-3-fluoro-phenoxy)-ethyl]-piperazine-1-carboxylic Acid tert-butyl Ester
t-butyl 4-(2-hydroxyethyl)piperazine-1-carboxylate (0.6 g; 2.6 mmol) was added to a suspension of sodium hydride (125 mg; 3.1 mmol) in 5 mL of anhydrous dimethylformamide at 0° C. Mixture was then heated to 40° C. for 2 hours. Anion was cooled to room temperature and added to a 0° C. mixture of 2,6-difluorobenzonitrile in 5 mL of dimethylformamide. After 16 hours at room temperature, reaction was quenched over 20 g of ice, mixture was extracted 4×50 mL with ethyl acetate. Combined organics was washed with 6×40 mLs water, brine and dried over MgSO4. Crude oil was obtained after filtration and concentration. Material was purified by flash chromatography using 2-3.5% methanol/dichloromethane gradient to obtain 660 mg of title compound. (73% yield).

reactant | t-butyl 4-(2-hydroxyethyl)piperazine-1-carboxylate | 2.6 mmol, 0.6 g | OCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O3
reactant | sodium hydride | 3.1 mmol, 125 mg | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[2-(2-Cyano-3-fluoro-phenoxy)-ethyl]-piperazine-1-carboxylic Acid tert-butyl Ester | 660 mg, 73% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=C(C(=CC=C1)F)C#N | C18H24FN3O3
